US07148226B2
3-(3-Chloro-4-hydroxyphenyl)-1-cyclopentylpropan-1-one
A mixture of 3-[4-(benzyloxy)-3-chlorophenyl]-1-cyclopentylpropan-1-one (48 g, 0.140 mole), from Step 1, and 10% palladium-on-carbon (11.52 g of 50 wt % wet, 0.005 mol, 3.5 mole %) in ethyl acetate (500 mL) was degassed and purged with hydrogen three times. The reaction was stirred with 1 atm H2 for 4 h, resulting in complete conversion. The mixture was filtered through a fine fritted glass funnel and the filtrate concentrated in vacuo, affording a yellow oil which crystallized on cooling. This material was recrystallized from two parts of isopropyl ether, affording 22 g (62%) of the title product. mp 88–90° C.

reactant | 3-[4-(benzyloxy)-3-chlorophenyl]-1-cyclopentylpropan-1-one | 0.140 mole, 48 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCC(=O)C1CCCC1)Cl | C21H23ClO2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.005 mol, 11.52 g | [Pd] | Pd
product | 3-(3-Chloro-4-hydroxyphenyl)-1-cyclopentylpropan-1-one | 22 g, 62% | ClC=1C=C(C=CC1O)CCC(=O)C1CCCC1 | C14H17ClO2
